Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L tibial shaft fracture
 
Major Surgical or Invasive Procedure:
___: L tibial ORIF

 
History of Present Illness:
___ with L tib/fib fracture s/p external fixation 2 days ago in 
___ transferred for further management.  Patient reports 
slipping and falling backwards with her L foot caught on the 
ground 4 days ago.  Felt a snap in the distal leg.  Occurred 
while in ___.  Taken to local hospital and had closed 
reduction and external fixation.  Patient transferred here for 
continued management.  Denies head strike, headache, LOC, neck 
pain, vomiting, vision change, other injuries, numbness.
 
Past Medical History:
None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
No acute distress
Unlabored breathing
Abdomen soft, non-tender, non-distended
Incision clean/dry/intact with no erythema or discharge, minimal 
ecchymosis
In aircast boot
Left lower extremity fires ___
Left lower extremity SILT sural, saphenous, superficial 
peroneal, deep peroneal and tibial distributions
Left lower extremity dorsalis pedis pulse 2+ with distal digits 
warm and well perfused
 
Pertinent Results:
Lower extremity dopplers ___: No DVT within the left leg.

Xray tib/fib ___: 
Multiple fluoroscopic images demonstrate ORIF of the distal 
tibia fracture. Please see operative note for further details.
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have L tibial shaft fracture with external fixation in place 
and was admitted to the orthopedic surgery service. The patient 
was taken to the operating room on ___ for left tibial open 
reduction and internal fixation which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient had significant pain on POD 1 and acute pain was 
consulted. Due to need for serial compartment checks to ensure 
the patient did not have compartment syndrome, a block was not 
performed. The patient's pain medication was adjusted so that 
she was comfortable enough to work with physical therapy. She 
was transitioned to an aircast boot. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications were continued throughout this 
hospitalization. The patient worked with ___ who determined that 
discharge to home with outpatient ___ and ___ was appropriate. A 
25Vitamin D level was checked, which was significantly below the 
normal limits. The patient was started on 50,000 units vitamin D 
weekly for 8 weeks and will follow up with endocrinology on an 
outpatient basis. The patient also had significant constipation, 
and a KUB was obtained on ___ to rule out obstructive process. 
Just prior to the KUB, the patient began to move her bowels 
spontaneously. The patient will be discharged on bowel 
medications to reduce the risk of opioid induced constipation 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
TDWB in the left lower extremity, and will be discharged on 4 
weeks of lovenox for DVT prophylaxis. The patient will follow up 
with Dr. ___ routine. A thorough discussion was had 
with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice daily 
Disp #*60 Capsule Refills:*0
4. Enoxaparin Sodium 40 mg SC QHS 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 1 syringe subcutaneously Every night 
Disp #*28 Syringe Refills:*0
5. Lorazepam 0.5 mg PO Q4H:PRN anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth Every 4 hours Disp #*60 
Tablet Refills:*0
6. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every ___ hours Disp 
#*90 Tablet Refills:*0
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
Daily Refills:*0
8. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth Twice daily 
Disp #*60 Capsule Refills:*0
9. Tizanidine ___ mg PO TID:PRN spasms 
RX *tizanidine 2 mg ___ tablet(s) by mouth Three times daily 
Disp #*60 Tablet Refills:*0
10. Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth Once weekly Disp #*8 Capsule Refills:*0
11. Outpatient Physical Therapy
crutches 
tibia fx
good 
13 months
12. Regular crutches
Diagnosis: Tibia fracture
Prognosis: Good
Duration: 13 months
___: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
R tibial shaft fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Touch down weight bearing left lower extremity in aircast boot

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40mg daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
-Please wear aircast boot at all times

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns
Physical Therapy:
Activity:   Activity:  Activity as tolerated
 Left lower extremity:  Touchdown weight bearing
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
Daily dry dressing changes

___
 
Followup Instructions:
___